US07838543B2
4′-Fluoro-biphenyl-4-carboxylic acid [2-(3-dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-yl]-amide
Combine 2-(3-dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-ylamine (0.100 g, 0.406 mmol), 4-(4-fluorophenyl)benzoic acid (0.073 g, 0.338 mmol), and HATU (0.129 g, 0.338 mmol) in CH2Cl2 and add DIEA (0.18 mL, 1.01 mmol). Shake the mixture in a shaker block at 40° C. for 72 h. Dilute the reaction mixture with CH2Cl2 (30 mL), and wash with saturated NaHCO3 (aqueous) (2×25 mL). Dry the organic phase over anhydrous sodium sulfate, filter, and concentrate in vacuo. Subject the crude product to flash column chromatography (40 g column) eluting with 8% MeOH/CH2Cl2, to yield the title compound as a bluish-white solid (0.116 g, 65%). mass spectrum (m/e): 445.3 [M+1], 443.3 [M−1]. 1H NMR (400 MHz, DMSO-d6): δ 10.23 (s, 1H), 8.05 (d, 2H, J=8.4 Hz), 7.85-7.79 (m, 4H), 7.75 (d, 1H, J=2.2 Hz), 7.41-7.30 (m, 4H), 3.79 (dd, 1H, J=9.9, 7.1 Hz), 3.72 (m, 1H), 3.54 (m, 1H), 3.31 (m, 1H), 2.86 (m, 1H), 2.25-2.12 (m, 7H), 1.86 (m, 1H).

reactant | 2-(3-dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-ylamine | 0.406 mmol, 0.100 g | CN(C1CN(CC1)C=1OC2=C(N1)C=C(C=C2)N)C | C13H18N4O
reactant | 4-(4-fluorophenyl)benzoic acid | 0.338 mmol, 0.073 g | FC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C13H9FO2
reactant | HATU | 0.338 mmol, 0.129 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.01 mmol, 0.18 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 4′-Fluoro-biphenyl-4-carboxylic acid [2-(3-dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-yl]-amide | 0.116 g, 65% | CN(C1CN(CC1)C=1OC2=C(N1)C=C(C=C2)NC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)F)C | C26H25FN4O2
